US03932545
Three grams of powdered barium hydride was stirred and reacted overnight with 2 ml. of 2-ethoxyethanol in 10 ml. of toluene, under argon atmosphere, yielding a slurry of di(2-ethoxyethoxy)-barium in toluene. To the slurry was added 10 ml. of a 1.7 molar solution of n-butyl-lithium in n-pentane. The mixture was stirred for 3 hours at room temperature, during which time a reaction ensued between the di(2-ethoxyethoxy)-barium, the n-butyl-lithium, and the toluene to give a partly hydrocarbon-soluble, lithium-containing, organometallic product having tolyl functionality.

reactant | barium hydride | Three grams | [H-].[Ba+2].[H-]
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | di(2-ethoxyethoxy)-barium | C(C)OCCO[Ba]OCCOCC | InChI=1S/2C4H9O2.Ba/c2*1-2-6-4-3-5;/h2*2-4H2,1H3;/q2*-1;+2
